US04772600
2-(4-Chlorophenyl)-N-(2-methoxyethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.37 g, 0.015 mole) and 1,1'-carbonyldiimidazole (2.59 g, 0.016 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 4 hrs. 2-Methoxyethylamine (1.71 g, 0.023 mole) was added and the reaction mixture was allowed to stir at room temperature overnight.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.015 mole, 4.37 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.016 mole, 2.59 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-Methoxyethylamine | 0.023 mole, 1.71 g | COCCN | C3H9NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-(2-methoxyethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCOC | C17H17ClN4O2
